US06048994
871 mg Of divinylbenzene and 4.35 g of triethoxysilane were placed in a glass reaction tube and 0.015 ml of a toluene solution of a 0-valent platinum complex of divinyltetramethyldisiloxane (platinum content: 0.2 Wt. %) was added to this mixture. The reaction tube was sealed with Teflon tape and heated for 30 minutes in an oil bath at 50° C. When the tube contents were analyzed by GC-MS following cooling, the conversion rate of divinylbenzene was 56%; bis (2-triethoxysilylethyl) benzene was produced at a yield of 2.8%, (1-triethoxysilylethyl) (2-triethoxysilylethyl) benzene was produced at a yield of 3.7%, and bis (1-triethoxysilylethyl) benzene was produced at a yield of 0.1%. No production of (triethoxysilyl) ethylstyrene was observed.

reactant | divinylbenzene | 871 mg | C(=C)C1=C(C=CC=C1)C=C | C10H10
reactant | triethoxysilane | 4.35 g | C(C)O[SiH](OCC)OCC | C6H16O3Si
reactant | divinyltetramethyldisiloxane | C(=C)[Si](O[Si](C)(C)C)(C)C=C | C8H18OSi2
solvent | toluene | 0.015 ml | C1(=CC=CC=C1)C | C7H8
product | bis (2-triethoxysilylethyl) benzene | yield of 2.8% | C(C)O[Si](CCC1=C(C=CC=C1)CC[Si](OCC)(OCC)OCC)(OCC)OCC | C22H42O6Si2
